US06812225B2
2-(2-Bromo-4-methoxy-phenylamino)-but-2-enedioic acid dimethyl ester
A solution of 2-bromo-4-methoxy aniline (6.02 g, 29.8 mmol) in 125 mL anhydrous methanol was treated with dimethyl acetylenedicarboxylate (3.70 mL, 30.2 mmol) and the solution was heated at reflux under nitrogen for 8 hours. The reaction mixture was cooled, concentrated, and redissolved in hot methanol. Yellow crystals were obtained by filtration (6.93 g, 68%). A second crop of crystals was obtained from ethanol (0.942 g, 9%). The filtrates were combined and purified by flash chromatography on silica gel using 4:1 hexanes:ethyl acetate to afford an additional 1.63 g (16%) for a total yield of 93%. 1H NMR (300 MHz, DMSO, d6) δ 9.60 (s, 1H, NH), 7.26 (d, 1H, Jm=2.7 Hz, ArH3), 6.93 (dd, 1H, Jo=8.7, Jm=2.7 Hz, ArH5), 6.87 (d, 1H, Jo=8.7 Hz, ArH6), 5.34 (s, 1H, C═CH), 3.76 (s, 3H, OCH3), 3.68 (s, 3H, CHCO2CH3), 3.66 (s, 3H, CNCO2CH3); Mass Spec.: calc. for [C13H14BrNO5+H]+ Theor. m/z=344, 346; Obs. 344, 346.

reactant | 2-bromo-4-methoxy aniline | 29.8 mmol, 6.02 g | BrC1=C(N)C=CC(=C1)OC | C7H8BrNO
reactant | dimethyl acetylenedicarboxylate | 30.2 mmol, 3.70 mL | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | ethanol | 0.942 g | C(C)O | C2H6O
solvent | methanol | 125 mL | CO | CH4O
product | 2-(2-Bromo-4-methoxy-phenylamino)-but-2-enedioic acid dimethyl ester | yield of 93% | COC(C(=CC(=O)OC)NC1=C(C=C(C=C1)OC)Br)=O | C13H14BrNO5
